US07037935B2
c) (RS)-1-[3-Fluoro-4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid
The title compound is prepared in analogy to Example 1a) from 3-fluoro-4-(3-fluoro-benzyloxy)-phenylamine and itaconic acid. Yield: 86% of a colorless solid. MS: m/e=346.1 (M−H).

reactant | 3-fluoro-4-(3-fluoro-benzyloxy)-phenylamine | FC=1C=C(C=CC1OCC1=CC(=CC=C1)F)N | C13H11F2NO
reactant | itaconic acid | C(C(=C)CC(=O)O)(=O)O | C5H6O4
product | (RS)-1-[3-Fluoro-4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid | FC=1C=C(C=CC1OCC1=CC(=CC=C1)F)N1CC(CC1=O)C(=O)O | C18H15F2NO4
